US04778803
Methyl 4-(2-pyridinylmethoxy)-2-thiophenecarboxylate
3.00 g (19.0 mmol) of methyl 4-hydroxy-2-thiophenecarboxylate, 3.11 g (19.0 mmol) of 2-chloromethylpyridine hydrochloride and 5.24 g (37.9 mmol) of potassium carbonate are heated under reflux in 60 ml of absolute 2-butanone for 10 hours under nitrogen. The mixture is then evaporated in vacuo and the residue is partitioned between methylene chloride and saturated sodium bicarbonate solution. The aqueous phase is extracted twice more with 100 ml of methylene chloride each time and the combined organic phases are dried over sodium sulfate/active charcoal, filtered and evaporated. The residue is digested with diisopropyl ether.

reactant | methyl 4-hydroxy-2-thiophenecarboxylate | 19.0 mmol, 3.00 g | OC=1C=C(SC1)C(=O)OC | C6H6O3S
reactant | 2-chloromethylpyridine hydrochloride | 19.0 mmol, 3.11 g | Cl.ClCC1=NC=CC=C1
reactant | potassium carbonate | 37.9 mmol, 5.24 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 60 ml | CC(CC)=O | C4H8O
product | Methyl 4-(2-pyridinylmethoxy)-2-thiophenecarboxylate | N1=C(C=CC=C1)COC=1C=C(SC1)C(=O)OC | C12H11NO3S
